US07855194B2
2-(Piperidin-4-ylamino)-4-trifluoromethyl-pyrimidine-5-carboxylic acid (4-trifluoromethoxy-phenyl)-amide dihydrochloride
A solution of 4-[5-(4-trifluoromethoxy-phenylcarbamoyl)-4-trifluoromethyl-pyrimidin-2-ylamino]-piperidine-1-carboxylic acid tert-butyl ester (0.92 g, 1.67 mmol) in 4 M HCl in dioxane (20 mL) was stirred at rt for 2 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ISP): 450.3 [M+H]+.

reactant | 4-[5-(4-trifluoromethoxy-phenylcarbamoyl)-4-trifluoromethyl-pyrimidin-2-ylamino]-piperidine-1-carboxylic acid tert-butyl ester | 1.67 mmol, 0.92 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC=C(C(=N1)C(F)(F)F)C(NC1=CC=C(C=C1)OC(F)(F)F)=O | C23H25F6N5O4
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 2-(Piperidin-4-ylamino)-4-trifluoromethyl-pyrimidine-5-carboxylic acid (4-trifluoromethoxy-phenyl)-amide dihydrochloride | Cl.Cl.FC(OC1=CC=C(C=C1)NC(=O)C=1C(=NC(=NC1)NC1CCNCC1)C(F)(F)F)(F)F | InChI=1S/C18H17F6N5O2.2ClH/c19-17(20,21)14-13(9-26-16(29-14)28-11-5-7-25-8-6-11)15(30)27-10-1-3-12(4-2-10)31-18(22,23)24;;/h1-4,9,11,25H,5-8H2,(H,27,30)(H,26,28,29);2*1H
